Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
doxycycline
 
Attending: ___.
 
Chief Complaint:
bilateral hydronephrosis, ___, hematuria
 
Major Surgical or Invasive Procedure:
BILATERAL placement of 8 ___ nephrostomy, ___

 
History of Present Illness:
___ with prostate cancer s/p XRT with recurrence and metastatic 
disease now on ADT with recent issues related to urinary 
retention and hematuria on CIC who was admitted to ___ 
___ with gross hematuria who subsequently experienced a 
bladder perforation and now has evidence ___ and bilateral
hydronephrosis. The patient is transferred to ___ for PCN 
placement for ___, hydronephrosis, and clot retention. 
 
Past Medical History:
? TRANSIENT ISCHEMIC ATTACK                                     
B12 DEFICIENCY                                                  
DVT/PE                                                          
ERECTILE DYSFUNCTION                                            
HYPERCHOLESTEROLEMIA                                            
KNEE PAIN                                                       
OPTICAL MIGRAINE                                                
PROSTATE CANCER                                                 
QUEST LAB                                                       
SLEEP APNEA                                                     
THYROID NODULE                                                  
PULMONARY EMBOLISM                                              
ROTATOR CUFF SYNDROME                                           
CATARACTS                                                       
R/O GLAUCOMA                                                    
PERIPHERAL NEUROPATHY                                           
ONYCHOMYCOSIS                                                   
BASAL CELL CARCINOMA                                            
HIP PAIN                                                        
OTHER PHYSICIANS                                                
ACTINIC KERATOSIS                                               
SCAR                                                            
ACTINIC KERATOSIS  
 
Social History:
___
Family History:
Relative  Status    Age Problem              Comments           
Mother    ___  ___  CEREBRAL EMBOLISM                       

Father    ___  ___  STROKE                                  
 
Physical Exam:
WDWN male, nad

 
Pertinent Results:
___ 06:02AM BLOOD WBC-7.4 RBC-2.58* Hgb-7.5* Hct-23.0* 
MCV-89 MCH-29.1 MCHC-32.6 RDW-16.2* RDWSD-52.3* Plt ___
___ 06:04AM BLOOD WBC-8.8 RBC-2.67* Hgb-7.8* Hct-23.4* 
MCV-88 MCH-29.2 MCHC-33.3 RDW-16.3* RDWSD-51.9* Plt ___
___ 06:40PM BLOOD WBC-8.7 RBC-2.82* Hgb-8.3* Hct-25.3* 
MCV-90 MCH-29.4 MCHC-32.8 RDW-16.3* RDWSD-53.7* Plt ___
___ 01:30PM BLOOD WBC-10.6* RBC-2.20* Hgb-6.7* Hct-20.6* 
MCV-94 MCH-30.5 MCHC-32.5 RDW-13.7 RDWSD-46.5* Plt ___
___ 09:50PM BLOOD WBC-11.4*# RBC-2.48*# Hgb-7.7*# 
Hct-23.0*# MCV-93 MCH-31.0 MCHC-33.5 RDW-13.6 RDWSD-46.4* Plt 
___
___ 09:50PM BLOOD ___ PTT-24.8* ___
___ 06:02AM BLOOD Glucose-103* UreaN-18 Creat-1.3* Na-141 
K-3.7 Cl-106 HCO3-28 AnGap-11
___ 06:04AM BLOOD Glucose-101* UreaN-25* Creat-2.1*# Na-141 
K-3.9 Cl-107 HCO3-25 AnGap-13
___ 06:40PM BLOOD Glucose-136* UreaN-37* Creat-3.8*# Na-136 
K-3.8 Cl-105 HCO3-22 AnGap-13
___ 09:50PM BLOOD Glucose-105* UreaN-27* Creat-2.4*# 
Na-131* K-3.9 Cl-99 HCO3-20* AnGap-16
___ 06:02AM BLOOD Mg-1.9
___ 06:04AM BLOOD Mg-2.0
___ 10:00PM URINE Color-Red Appear-Cloudy Sp ___
___ 10:00PM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-10 Bilirub-MOD Urobiln-NEG pH-6.5 Leuks-MOD
___ 10:00PM URINE RBC->50 ___ Bacteri-FEW Yeast-NONE 
Epi-<1
___ 06:52AM ASCITES Creat-1.5

___ 9:41 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH.

FINDINGS ___:    
1. Mild right hydronephrosis. 
2. Right antegrade urogram demonstrates flow to the mid ureter, 
but the distal right ureter could not be opacified. 
3. Severe left hydronephrosis. 
4. Left antegrade urogram demonstrates flow to the proximal to 
mid ureter, but the distal left urter could not be opacified. 
  
IMPRESSION:  Successful placement of 8 ___ nephrostomy on 
both sides. 

 
Brief Hospital Course:
___ with prostate cancer s/p XRT with recurrence and metastatic 
disease now on ADT with recent issues related to urinary 
retention and hematuria on CIC who was admitted to ___ 
___ with gross hematuria who subsequently experienced
a bladder perforation and now has evidence ___ and bilateral 
hydronephrosis. The patient is transferred to ___, admitted to 
Dr. ___ PCN placement for ___, hydronephrosis, and clot 
retention. His hospital course is itemized below but overall, 
was uneventfull. He was optimized for intervention but taken 
urgently to the ___ suite on hospital day three where he 
underwent successful placement of bilateral nephrostomies. The 
remainder of his hospital course was unremarkable. He was 
gradually transitioned to oral medications and prepared for 
discharge home with ___ services. All of his questions were 
answered and close follow up with Dr. ___.

DAY to Day itemization:
___: cup+ old clot irrigated out of bladder w/ 3.5L. Tolerated 
well. JP creat 1.5/serum creat 1.3, Hct ___: Cr 2.1, HCT 23.4. Patient doing well clinically. AVSS. 
Foley with small amount of dark output. ADAT. Drain placed at 
___ with minimal output and lower midline incision C/D/I. 

___: Cr up to 5.7, HCT 22.5 after transfusion. Patient given 
one additional unit. ___ placed bilateral PCN's without 
complication. Antegrades showed opacification to the midureter 
bilaterally with no contrast passage distally. Source of 
obstruction unclear. Right draining more than left. Cr down to 
3.8. HCT 25. 

___: Cr up to 4.2 and HCT down to 20.5. Transfused one unit. 
Discussed with ___, plan for PCN's on ___. AVSS. Catheter 
intermittently obstructing with difficult hand irrigation and 
patient intolerance. 

___: Foley draining dark red urine on admission with no PVR. 
Cr down to 2.4 from 3.7 and HCT stable at 23. Decision made to 
trend labs and hold on PCN's. Patient intolerant of hand 
irrigation with minimal return on attempts. 2 way in place, 
given prior false passage and bladder perforation, exchange to 
3way not performed. 

 
Medications on Admission:
Active Medication list as of ___:
 
Medications - Prescription
ATORVASTATIN - atorvastatin 10 mg tablet. 1 tablet(s) by mouth 
at
bedtime x90 days
LUPRON Q 6 MONTHS - Dosage uncertain -  (Prescribed by Other
Provider)
PSYLLIUM ___ CAPS  Q D - Dosage uncertain -  (Prescribed by 
Other
Provider)
TAMSULOSIN - tamsulosin 0.4 mg capsule. 1 to 2 capsule(s) by
mouth at bedtime
TAMSULOSIN [FLOMAX] - Flomax 0.4 mg capsule. 1 capsule(s) by
mouth twice a day -  (Prescribed by Other Provider)
TROSPIUM - trospium 20 mg tablet. 1 tablet(s) by mouth twice a
day Start taking once a day, and increase to twice a day. -  (On
Hold from ___ to unknown for stopped taking due to dry
mouth. )
 
Medications - OTC
CERAMIDES ___ [CERAVE] - CeraVe topical cleanser.   -  
(OTC)
(Not Taking as Prescribed)
CYANOCOBALAMIN (VITAMIN B-12) [VITAMIN B-12] - Vitamin B-12 
1,000
mcg tablet. one Tablet(s) by mouth daily -  (Not Taking as
Prescribed)
PSYLLIUM HUSK [METAMUCIL] - Metamucil 0.52 gram capsule. 1
capsule(s) by mouth every evening as needed -  (___)

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain  
2.  Acetaminophen 650 mg PO TID  
3.  Atorvastatin 10 mg PO QPM  
4.  Bisacodyl ___AILY  
5.  Docusate Sodium 100 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
bilateral hydronephrosis, ___, hematuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency 

-No vigorous physical activity or sports for ___ weeks, 
including sexual.  Avoid 
lifting/twisting/bending/pulling/pushing items weighing more 
than a ___ pounds. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  

HOLD ASPIRIN and aspirin containing products until advised by 
your urologist or PCP

-___ has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and available over the counter. 
The generic name is DOCUSATE SODIUM. It is recommended that you 
use this medication.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

IF YOU ARE DISCHARGED HOME WITH A FOLEY CATHETER:
-Please refer to the provided nursing instructions and handout 
on Foley catheter care, waste elimination and leg bag usage.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
have anyone else other than your Surgeon remove your Foley for 
any reason.

-Wear Large Foley bag for majority of time, leg bag is only for 
short-term when leaving house.

PERCUTANEOUS NEPHROSTOMY (PCN) 

-Please refer to the provided nursing instructions and handout 
on PCN care, waste elimination, dressing changes. 

PERCUTANEOUS NEPHROSTOMY (PCN) TUBE INSTRUCTIONS FOR CARE---FOR  
FAMILY:

Please leave PCN tube to external gravity drainage. 

Catheter flushing: If there are excessive blood clots or debris 
or thick urine within the connecting tubing, this can be gently 
flushed as needed to promote clearing. Use normal saline filled 
syringes provided by nursing. 

Change every 3 days after they have been in place for one week, 
if soiled/saturated, as needed: Gently cleanse around the skin 
entry site of the catheter with gentle soap w/ warm water. Dry 
and apply gauze dressing.

Catheter security: a) EVERYDAY you must check to be sure the 
catheter, the connecting tubing and the drainage bag are 
securely attached to the patient and are not kinked. b) If the 
catheter appears to be pulling "out", please notify 
Interventional Radiology. 

c) If the catheter pulls out, please notify Interventional 
Radiology within 8 hours. SAVE THE CATHETER for inspection--DO 
NOT throw
it away.

Call Interventional Radiology/Angio for ANY catheter related 
questions or problems. ___ or Fellow/Resident (pager# ___
 
Followup Instructions:
___